US07737279B2
N-[[6-[1,6-dihydro-1-methyl-4-(methylamino)imidazo[4,5-d]pyrrolo[2,3-b]pyridin-7-yl]-2-pyridinyl]methyl]-2-methoxy-acetamide
To a mixture of A215.1-trihydrochloride (1.15 g, 2.76 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.794 g, 4.14 mmol), 1-hydroxybenzotriazole (0.559 g, 4.14 mmol), and diisopropylethylamine (2.90 mL, 16.6 mmol) in anhydrous dimethylformamide (50 mL) was added methoxyacetic acid (0.320 mL, 4.14 mmol). The reaction mixture was stirred at 80° C. for 20 min. During the first 5 min, the suspension became homogeneous. The solvent was removed under reduced pressure, and the residue was diluted with dichloromethane, washed with a saturated aqueous solution of sodium bicarbonate, and dried over anhydrous sodium sulfate. Concentration under pressure followed by purification by flash silica gel chromatography using a mixture of methanol in dichloromethane (2%-5%) afforded 0.890 g (85%) of A228 as yellowish-brown solid. The solid was triturated with methanol to give 0.660 g of A228 as a yellow solid. The filtrate was re-purified on silica gel to give an additional 0.191 g of A228. The compound had an HPLC retention time=1.81 min. (Column: Chromolith SpeedROD 4.6×50 mm—4 min.; Solvent A=10% MeOH, 90% H2O, and 0.1% TFA; Solvent B=90% MeOH, 10% H2O, and 0.1% TFA) and a LC/MS M+1=380.33.

reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 4.14 mmol, 0.794 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 4.14 mmol, 0.559 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | diisopropylethylamine | 16.6 mmol, 2.90 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methoxyacetic acid | 4.14 mmol, 0.320 mL | COCC(=O)O | C3H6O3
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | H2O | O | H2O
solvent | MeOH | CO | CH4O
product | N-[[6-[1,6-dihydro-1-methyl-4-(methylamino)imidazo[4,5-d]pyrrolo[2,3-b]pyridin-7-yl]-2-pyridinyl]methyl]-2-methoxy-acetamide | CN1C=NC=2C1=C1C(=NC2NC)NC(=C1)C1=CC=CC(=N1)CNC(COC)=O | C19H21N7O2
